US04501746
N-[1-(3-pyridyl)ethyl]-N-(4-chlorophenyl)hexanamide
To a stirred solution of 7.5 g. of N-(4-chlorophenyl)-[1-(3-pyridyl)ethyl]amine in 200 ml. of toluene containing 5.0 g. of triethylamine were added dropwise over thirty minutes 4.5 g. of hexanoyl chloride. Following the complete addition, the solid precipitate which had formed was removed by filtration, and the solvent was removed from the filtrate by evaporation under reduced pressure. The product thus formed was chromatographed over a silica gel column to provide, after removal of the solvent from the appropriate factions, 650 mg. of N-[1-(3-pyridyl)ethyl]-N-(4-chlorophenyl)hexanamide. Oil.

reactant | N-(4-chlorophenyl)-[1-(3-pyridyl)ethyl]amine | ClC1=CC=C(C=C1)NC(C)C=1C=NC=CC1 | C13H13ClN2
reactant | toluene | 5.0 g | C1(=CC=CC=C1)C | C7H8
reactant | hexanoyl chloride | C(CCCCC)(=O)Cl | C6H11ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[1-(3-pyridyl)ethyl]-N-(4-chlorophenyl)hexanamide | N1=CC(=CC=C1)C(C)N(C(CCCCC)=O)C1=CC=C(C=C1)Cl | C19H23ClN2O
